US04822729
2-(p-nitrophenoxy]-myristoyl chloride
An amount of 550 g of 2-(p-nitrophenoxy)-myristic acid is heated together with 550 ml of thionyl chloride for 1 h to 60° C. so that a solution is obtained. The excess thionyl chloride is filtered off. Yield: 585 g (100%) of 2-(p-nitrophenoxyl]-myristoyl chloride (oil).

reactant | 2-(p-nitrophenoxy)-myristic acid | 550 g | [N+](=O)([O-])C1=CC=C(OC(C(=O)O)CCCCCCCCCCCC)C=C1 | C20H31NO5
reactant | thionyl chloride | 550 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(p-nitrophenoxy]-myristoyl chloride | [N+](=O)([O-])C1=CC=C(OC(C(=O)Cl)CCCCCCCCCCCC)C=C1 | C20H30ClNO4
